US06841549B1
5-[2-(3-Fluorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]-1-methyl-1,2-dihydro-2-pyridinone
A solution of 250 mg of 5-[2-(3-fluorophenyl)-3H-imidazo [4,5-b]pyridin-3-yl]-2-pyridinol, 177 mg of sodium methoxide and 306 μL methyl iodide in a mixture (10 mL) of methanol and tetrahydrofuran in a ratio of 1/1 was stirred at room temperature for 1 day. Ethyl acetate and a saturated aqueous ammonium chloride solution were added thereto and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed once with brine and dried over magnesium sulfate followed by distilling the solvent away under reduced pressure, to give crude crystals. The resulting crude crystals were collected by filtration with diethyl ether, to give 160 mg of the title compound as brown crystals (61% y.).

reactant | 5-[2-(3-fluorophenyl)-3H-imidazo [4,5-b]pyridin-3-yl]-2-pyridinol | 250 mg | FC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1C=1C=CC(=NC1)O | C17H11FN4O
reactant | sodium methoxide | 177 mg | C[O-].[Na+]
reactant | methyl iodide | 306 μL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 5-[2-(3-Fluorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]-1-methyl-1,2-dihydro-2-pyridinone | 160 mg, 61% | FC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1C=1C=CC(N(C1)C)=O | C18H13FN4O
